US05036107
1-Acetoxy-1-cyclohexyl-1-phenylpropan-2-one
3-Cyclohexyl-3-hydroxy-3-phenylprop-1-yne (21.57 g, 0.10 mol) was added to 100 ml of glacial acetic acid. While the solution was stirred vigorously mercuric acetate (35.20 g, 0.11 mol) was added. The solution was stirred at room temperature for 72 hours and then thioacetamide (8.3 g, 0.11 mol) was added. The solution was stirred an additional 3 hours and 300 ml of ether was added. The reaction mixture was transferred to a separatory funnel and washed with water, saturated sodium bicarbonate solution, and again with water. The ether layer was dried over sodium sulfate and the ether removed under vacuum to afford the product as a white crystalline solid (18.36 g, 66.9%). Mp 81°-83° C. (from petroleum ether). 1H NMR (CDCl3) δ7.3(bs, 5H), 2.2(s, 3H), 1.9(s, 3H), 2.0-0.8(m, 11H).

reactant | 3-Cyclohexyl-3-hydroxy-3-phenylprop-1-yne | 0.10 mol, 21.57 g | C1(CCCCC1)C(C#C)(C1=CC=CC=C1)O | C15H18O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | thioacetamide | 0.11 mol, 8.3 g | C(C)(=S)N | C2H5NS
reactant | ether | 300 ml | CCOCC | C4H10O
product | 1-Acetoxy-1-cyclohexyl-1-phenylpropan-2-one | 18.36 g, 66.9% | C(C)(=O)OC(C(C)=O)(C1=CC=CC=C1)C1CCCCC1 | C17H22O3
